US06479486B2
2-Cyclopropyloxy-5-trifluoromethoxyphenylethyne
Potassium carbonate (6.15 g, 44 mmol) was added to a stirred solution of 2-cyclopropyloxy-5-trifluoromethoxybenzaldehyde (Description 3; 4.4 g, 17.8 mmol), and acetyl diazomethyl phosphonate (6.15 g, 32 mmol) in dry methanol (50 ml) at +5° C. The reaction mixture was stirred at +5° C. for 30 minutes and at room temperature for 3.5 hours. The mixture was quenched with saturated aqueous ammonium chloride and extracted into hexane (3×30 ml). The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:diethyl ether 0-45%) to give the title compound (4.2 g, 94%).

reactant | Potassium carbonate | 44 mmol, 6.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyclopropyloxy-5-trifluoromethoxybenzaldehyde | 17.8 mmol, 4.4 g | C1(CC1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C11H9F3O3
reactant | acetyl diazomethyl phosphonate | 32 mmol, 6.15 g | P(OC(C)=O)(OC=[N+]=[N-])=O | C3H5N2O4P
solvent | methanol | 50 ml | CO | CH4O
product | 2-Cyclopropyloxy-5-trifluoromethoxyphenylethyne | 4.2 g, 94% | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)C#C | C12H9F3O2
